US09120822B2
Lithium hydroxide monohydrate (731 mg, 17.42 mmol, 15.0 eq) is added at room temperature to a stirred solution of 6-methoxy-2H-1-thia-9-aza-phenanthrene-3-carboxylic acid ethyl ester (350 mg, 1.16 mmol, 1.0 eq) in tetrahydrofuran (5 mL) and water (5 mL). After 2 hours stirring at room temperature, the reaction mixture is acidified until pH=6 with a 1N hydrochloric acid aqueous solution and the resulting precipitate is collected by filtration, dried under vacuum to afford 6-methoxy-2H-1-thia-9-aza-phenanthrene-3-carboxylic acid as a yellow solid (280 mg, 88% yield).

reactant | Lithium hydroxide monohydrate | 17.42 mmol, 731 mg, 15.0 eq | O.[OH-].[Li+]
reactant | 6-methoxy-2H-1-thia-9-aza-phenanthrene-3-carboxylic acid ethyl ester | 1.16 mmol, 350 mg, 1.0 eq | C(C)OC(=O)C=1CSC=2C=NC3=CC=C(C=C3C2C1)OC | C16H15NO3S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 6-methoxy-2H-1-thia-9-aza-phenanthrene-3-carboxylic acid | 280 mg, 88% yield | COC=1C=C2C=3C=C(CSC3C=NC2=CC1)C(=O)O | C14H11NO3S
